US07893056B2
[(2R)-3-(2-{2-Chloro-5-fluoro-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (0.0958 g, 0.1701 mmol) was dissolved in acetic acid (8 mL) and water (2 mL). This reaction mixture was left to stir overnight. The volatiles were evaporated, and the resulting material was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide as a beige solid (0.0249 g, 31%). LCMS: (M+H)+=480.1.

reactant | [(2R)-3-(2-{2-Chloro-5-fluoro-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.1701 mmol, 0.0958 g | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)N(CC1=CC=NC=C1)C | C26H35ClFN7O4
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[methyl(4-pyridinylmethyl)amino]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl]hydroxyformamide | 0.0249 g, 31% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)O)CC1CCCC1)=O)F)N(CC1=CC=NC=C1)C | C21H27ClFN7O3
